US07709466B2
6-(6-Oxo-1,6-dihydro-pyridin-3-yl)-4-(3-phenyl-1H-indol-2-yl)-2H-pyridazin-3-one
This compound is synthesized, starting from 4-(1H-Indol-2-yl)-6-(6-methoxy-pyridin-3-yl)-2H-pyridazin-3-one, and using phenyl boronic acid, analogously to example 173. Yield 30 mg. LC-MS (ES+) 381 (M+H)+.

reactant | 4-(1H-Indol-2-yl)-6-(6-methoxy-pyridin-3-yl)-2H-pyridazin-3-one | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NC(=CC1)OC)=O | C18H14N4O2
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 6-(6-Oxo-1,6-dihydro-pyridin-3-yl)-4-(3-phenyl-1H-indol-2-yl)-2H-pyridazin-3-one | O=C1C=CC(=CN1)C=1C=C(C(NN1)=O)C=1NC2=CC=CC=C2C1C1=CC=CC=C1 | C23H16N4O2
